US08283353B2
4′-{[4-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,3]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
N-(4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-1,2,3-triazol-5-amine (5.55 g) and a solution of ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (13.07 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (2.85 g) in N,N-diethylaniline (30 mL) were stirred at 185° C. for 15 hr. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with 1 N hydrochloric acid and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=90/10→80/20 (volume ratio)] to give the title compound as a brown amorphous compound (1.58 g, 15%).

reactant | N-(4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-1,2,3-triazol-5-amine | 5.55 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)NC1=CN=NN1 | C14H28N4OSi
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 13.07 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.85 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-diethylaniline | 30 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,3]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=NC2 | C34H43N5O2Si
